US04851439
Preparation of ethyl octadecyl fumarate (Full Ester)
135 g (0.5 mole) of 1-octadecanol and 65 ml (0.55 mole) of quinoline are dissolved, with stirring, at 40° C. in 500 ml of ethanol-free chloroform. Over the course of one hour, 89.4 g (0.55 mole) of fumaric acid monoethylesterchloride were added drop by drop to the clear solution and it was boiled for 2 hours under reflux. The reaction mixture was diluted with 500 ml of petroleum ether and extracted twice with 0.5N hydrochloric acid, water, 5% potassium carbonate solution and water, dried over sodium sulfate and concentrated under reduced pressure. The solid residue was recrystallized from 95% ethanol. Yield: 139 g of product having a melting point of 42° C.

reactant | 1-octadecanol | 0.5 mole, 135 g | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | quinoline | 0.55 mole, 65 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | fumaric acid monoethylesterchloride | 0.55 mole, 89.4 g | [Cl-].C(C)OC(\C=C\C(=O)O)=O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl octadecyl fumarate | C(\C=C\C(=O)OCCCCCCCCCCCCCCCCCC)(=O)OCC | C24H44O4
